US06005119
An autoclave was charged with 3.9 g of 79% pure (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine, 3 ml of ethanol and 156 mg of moist 5% palladium-carbon (water content 52% by weight), hydrogen was introduced thereinto and the autoclave was heated to raise the temperature to 60 and the pressure to 203 kPa, and the reaction was allowed to proceed. Five hours after the start of hydrogen introduction, no hydrogen absorption was observed any more, so that the reaction mixture was cooled to room temperature and depressurized. The reaction mixture was taken out, the catalyst was filtered off, and the filtrate obtained was analyzed by high performance liquid chromatography. (S)-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine was obtained in a yield of 36 mole percent.

reactant | (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine | 3.9 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C25H24N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (S)-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CNCC1 | C18H18N2
